US07777047B2
N-methyl-N-{2-[8-(methylsulfonyl)-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a solution of N-methyl-N-[2-(1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide (82 mg) and methanesulfonyl chloride (100 μL) in tetrahydrofuran (3 ml) was added triethylamine (100 μL), and the mixture was stirred at room temperature for 30 min. The reaction mixture was concentrated, and water was added. The precipitated crystals were collected by filtration, and washed with water. The obtained crystals were recrystallized from tetrahydrofuran to give the title compound (42 mg, yield 36%) as colorless crystals. melting point 251° C.

reactant | N-methyl-N-[2-(1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 82 mg | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC2(CN1)CCNCC2 | C20H22N4O2S3
reactant | methanesulfonyl chloride | 100 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 100 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-methyl-N-{2-[8-(methylsulfonyl)-1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 42 mg, yield 36% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC2(CN1)CCN(CC2)S(=O)(=O)C | C21H24N4O4S4
